* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1572.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 150µ Rser=0.02 Rpar=5000
R1 OUT N004 10.7K
R2 N004 0 1.24K
R3 N003 N002 1K
C1 OUT 0 100µ Rser=0.05
C2 N002 0 1µ
V1 IN 0 5
X§U1 N003 N004 0 N001 IN N001 OUT LT1572
Rload OUT 0 25
.tran 15m startup
.lib LT1572.sub
.backanno
.end
